US07842686B2
5′-Amino-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione
5′-Nitro-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione (10.1 mmol, 2.5 g) and 10% Pd/C (0.25 g) in 1:1 EtOAc:MeOH (300 ml) were stirred under H2 (1 atm) for 1.5 h. The solution was filtered and evaporated to give the title compound as a brown solid that was used with out further purification. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=218; tR=2.4.

reactant | 5′-Nitro-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione | 10.1 mmol, 2.5 g | [N+](=O)([O-])C=1C=C2CC3(CC2=CC1)NC(NC3=O)=O | C11H9N3O4
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.25 g | [Pd] | Pd
solvent | MeOH | 300 ml | CO | CH4O
product | 5′-Amino-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione | NC=1C=C2CC3(CC2=CC1)NC(NC3=O)=O | C11H11N3O2
